US06169091A
6-Chloro-3H-pyrido[3,4-d]pyrimidine-4-one (9.08 g, 50.0 mmol) was reacted with sodium hydride (60% dispersion on mineral oil, 8.14 g, 203.5 mmol) in benzyl alcohol at 150° C. for 18 hours. The mixture was partitioned between water and ether (water layer at pH14 from the excess sodium hydride) and the layers separated. The aqueous layer was further washed with ether, and then acidified to pH1 with dilute HCl, giving a cream precipitate. This was collected by filtration and dried at 60° C. in vacuo to give 6-benzyloxy-3H-pyrido[3,4-d]pyrimidin-4-one (10.59 g, 84%); δH [2H6]-DMSO 8.71 (1H,s), 7.79 (1H,s), 7.25-7.48 (6H,m), 5.40 (2H,s); m/z (M+1)+254. 6-Benzyloxy-3H-pyrido[3,4-d]pyrimidine-4-one (1.033 g, 4.08 mmol) was reacted with thionyl chloride (10 ml) and dimethyl formamide (2 drops) at reflux under a nitrogen atmosphere for 5 hours, and then left at room temperature overnight. The mixture was concentrated in vacuo, azeotroping twice with toluene to remove the excess thionyl chloride, to give 6-benzyloxy4-chloropyrido[3,4-d]pyrimidine; δH [2H6]-DMSO 8.73 (1H,s), 8.10 (1H,s), 7.25-7.55 (6H,m), 5.41 (2H,s). 6-Benzyloxy-4-chloropyrido[3,4-d]pyrimidine (ca. half the above material, ca. 2 mmol) was reacted with 4-benzyloxyaniline (0.430 g, 2.25 mmol) in acetonitrile (10 ml) according to Procedure A for 5 hours. The resulting brown solid was 6-benzyloxy4-(4-benzyloxyanilino)pyrido[3,4-d]pyrimidine (0.621 g, 71%); δH [2H6]-DMSO 8.99 (1H,s), 8.73 (1H,s), 8.22 (1H,s), 7.71 (2H,d), 7.15-7.55 (10H,m), 7.10 (2H,d), 5.50 (2H,s), 5.13 (2H, s); m/z (M+1)+435.

reactant | 6-Chloro-3H-pyrido[3,4-d]pyrimidine-4-one | 50.0 mmol, 9.08 g | ClC1=CC2=C(N=CNC2=O)C=N1 | C7H4ClN3O
reactant | sodium hydride | 203.5 mmol, 8.14 g | [H-].[Na+]
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 6-benzyloxy-3H-pyrido[3,4-d]pyrimidin-4-one | 10.59 g, 84% | C(C1=CC=CC=C1)OC1=CC2=C(N=CNC2=O)C=N1 | C14H11N3O2
